US05688929
Preparation of ethyl β-D-galactopyranoside uronic acid
100 g (0.4 mol) of sodium ethyl β-D-galactopyranoside uronate prepared according to Example No. 10 is solubilized in water (20% solution). After adding sulphuric acid up to pH=2, concentrating under vacuum and selectively precipitating the salts in acetone, ethyl β-D-galactopyranoside uronic acid is recovered with a 90% yield (80 grams). Its physicochemical characteristics are given below:

reactant | sodium ethyl β-D-galactopyranoside uronate | 0.4 mol, 100 g | O([C@H]1[C@H](O)[C@@H](O)[C@@H](O)[C@H](O1)C(=O)[O-])CC.[Na+]
reactant | sulphuric acid | S(O)(O)(=O)=O | H2O4S
solvent | water | O | H2O
product | ethyl β-D-galactopyranoside uronic acid | 90% yield | O([C@H]1[C@H](O)[C@@H](O)[C@@H](O)[C@H](O1)C(=O)O)CC | C8H14O7
